US06949542B2
4-[3-(2-Hydroxymethyl-pyridin-4-yl)-phenyl]-7-methyl-8-trifluoromethyl-1,3-dihydro benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[5-methyl-2-(3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M260) (6.20 g, 98.8 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (2.74 g, 65%).

reactant | (RS)-[5-methyl-2-(3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 98.8 mmol, 6.20 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)COC1OCCCC1)=O)=O)=O | C33H36F3N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-Hydroxymethyl-pyridin-4-yl)-phenyl]-7-methyl-8-trifluoromethyl-1,3-dihydro benzo[b][1,4]diazepin-2-one | OCC1=NC=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C)C(F)(F)F | C23H18F3N3O2
